US08193199B2
Triphenylphosphine (1.81 g, 6.9 mmol, 1.2 eq) was dissolved in anhydrous THF (30 mL) and cooled to 0° C. To this solution was added diispropylazodicarboxylate (1.36 mL, 6.9 mmol, 1.2 eq). The reaction was stirred for 30 minutes at 0° C. and (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol (1.3 g, 5.7 mmol) in 30 mL of THF was added, followed by diphenylphosphoryl azide (1.37 mL, 6.3 mmol, 1.1 eq). The reaction was allowed to warm to rt and stir at rt overnight. The reaction was deposited on silica gel and concentrated. Purification by column chromatography (3% etoac in hexanes) afforded (S)-3-(1-azidoethyl)-2-chloro-8-fluoroquinoline. 1H NMR (400 MHz, CDCl3) δ ppm 8.30 (d, J=1.2 Hz, 1H), 7.67 (br d, J=8.22 Hz, 1H), 7.54 (td, J=7.8, 4.7 Hz, 1H), 7.45 (ddd, J=10.2, 7.8, 1.2 Hz) δ 5.22 (q, J=6.7 Hz, 1H), 1.68 (d, J=6.7 Hz, 3H). Mass Spectrum (ESI) m/e=250.9 (M+1). General Procedures for 8-fluoroquinoline Analogues:

reactant | Triphenylphosphine | 6.9 mmol, 1.81 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | 5.7 mmol, 1.3 g | ClC1=NC2=C(C=CC=C2C=C1[C@@H](C)O)F | C11H9ClFNO
reactant | diphenylphosphoryl azide | 6.3 mmol, 1.37 mL, 1.1 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-3-(1-azidoethyl)-2-chloro-8-fluoroquinoline | N(=[N+]=[N-])[C@@H](C)C=1C(=NC2=C(C=CC=C2C1)F)Cl | C11H8ClFN4
